US04985419
2-Methoxybenzylamine (26.1 cc) is added dropwise at a temperature of 10° C. and with stirring to a solution of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride (13.2 g in methylene chloride (125 cc). Stirring is continued for 15 minutes at 10° C. and 16 hours at 20° C. The reaction mixture is washed with distilled water (3×100 cc) and the organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is purified by chromatography on a column (height: 64 cm; diameter: 3 cm) of silica gel (0.06-0.2 mm), eluting with ethyl acetate (2 liters) and collecting 200-cc fractions. Fractions 3 to 10 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give N-(2-methoxybenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (9.3 g) in the form of a white crystalline solid, m.p. 127° C.

reactant | 2-Methoxybenzylamine | 26.1 cc | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)Cl
solvent | methylene chloride | 125 cc | C(Cl)Cl | CH2Cl2
product | N-(2-methoxybenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 9.3 g | COC1=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC=C1 | C28H31N3O2S
